US08378107B2
Step 4: [3-(3-Ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride
(3-{3-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester (1.18 g, 2.46 mmol) in CH2Cl2 (10 mL) was treated with hydrogen chloride (4N in 1,4-dioxane; 5 mL, 20.0 mmol) at room temperature for 3 hours. The mixture was concentrated to give the title compound.

reactant | (3-{3-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | 2.46 mmol, 1.18 g | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CN(CC)C(=O)OC(C)(C)C)=O | C28H34N2O5
reactant | hydrogen chloride | 20.0 mmol, 4N, 5 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [3-(3-Ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CNCC)=O | InChI=1S/C23H26N2O3.2ClH/c1-4-24-15-18-14-17-8-6-7-9-20(17)25-23(18)19-12-16(10-11-21(19)27-3)13-22(26)28-5-2;;/h6-12,14,24H,4-5,13,15H2,1-3H3;2*1H
